US03941806
7-Benzoyl-5-chloroindoline
A suspension of 5 g. (0.0187 mole) of 7-chloro-1,2-dihydro-4-methyl-5-phenylpyrrolo[3,2,1-hi]indole in 400 ml. of glacial acetic acid was treated with ozone at room temperature until all the suspended material went into solution, the reaction mixture was poured into water and the mixture extracted with chloroform. The chloroform extracts were combined and concentrated to an oil. The oil was treated with a solution of 100 ml. of hydrochloric acid and 100 ml. of glacial acetic acid; the mixture was refluxed four hours and then poured into water. The solution was extracted with chloroform, the solution dried and concentrated to an oil. The oil was dissolved in benzene and chromatographed on 50 g. of magnesium silicate. The material was molecularly distilled to give 1.5 g. (33%) of product. The yellow product melted at 114°-117°C.

reactant | 7-chloro-1,2-dihydro-4-methyl-5-phenylpyrrolo[3,2,1-hi]indole | 0.0187 mole | ClC=1C=C2CCN3C2=C(C1)C(=C3C)C3=CC=CC=C3 | C17H14ClN
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | ozone | O=[O+][O-] | O3
solvent | water | O | H2O
product | 7-Benzoyl-5-chloroindoline | C(C1=CC=CC=C1)(=O)C=1C=C(C=C2CCNC12)Cl | C15H12ClNO
